US04018798
Ethyl 2-(4-oxo-4H-naphtho[1,2-b]pyran-2-yl)cyclopropane carboxylate
A mixture of 12.4g of 1'-hydroxy-2-(methylsulfinyl)-2'-acetonaphthone, 7.1g of ethyl 2-formyl-1-cyclopropane carboxylate, 250ml of toluene and 0.5ml of piperidine was refluxed for 8 hrs. The toluene was then removed under reduced pressure, and the oily residue was recrystallized from Skelly B with the aid of charcoal, mp. 106°-07.5°; yield 6.5g (42%); λ max mμ (ε) 219 (50,000), 259 (36,800), 327 (3,990), 341 (4,100); ν max 760 (m), 825 (ms), 1195 (s), 1640 (s), 1650 (s), 1730 (s) cm-1.

reactant | 1'-hydroxy-2-(methylsulfinyl)-2'-acetonaphthone | 12.4g | OC1=C(C=CC2=CC=CC=C12)C(CS(=O)C)=O | C13H12O3S
reactant | ethyl 2-formyl-1-cyclopropane carboxylate | 7.1g | C(=O)C1C(C1)C(=O)OCC | C7H10O3
reactant | piperidine | 0.5ml | N1CCCCC1 | C5H11N
solvent | toluene | 250ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 2-(4-oxo-4H-naphtho[1,2-b]pyran-2-yl)cyclopropane carboxylate | O=C1C2=C(OC(=C1)C1C(C1)C(=O)OCC)C1=CC=CC=C1C=C2 | C19H16O4
